US07820837B2
(6-{[3-(2-methyl-1-naphthyl)benzyl]oxy}-2,3-dihydro-1-benzofuran-3-yl)acetic acid
To a solution of methyl (6-{[3-(2-methyl-1-naphthyl)benzyl]oxy}-2,3-dihydro-1-benzofuran-3-yl)acetate (0.801 g, 1.90 mmol) in a mixed solvent of methanol (6 mL) and tetrahydrofuran (6 mL) was added 2 M aqueous sodium hydroxide solution (3 mL), and the mixture was stirred at room temperature for 20 hr. Water was added to the reaction mixture, and the mixture was acidified with 1 M hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30% ethyl acetate/hexane-ethyl acetate), and recrystallized from ethyl acetate-hexane to give the title compound (0.444 g, yield 55%) as colorless needle crystals.

reactant | methyl (6-{[3-(2-methyl-1-naphthyl)benzyl]oxy}-2,3-dihydro-1-benzofuran-3-yl)acetate | 1.90 mmol, 0.801 g | CC1=C(C2=CC=CC=C2C=C1)C=1C=C(COC2=CC3=C(C(CO3)CC(=O)OC)C=C2)C=CC1 | C29H26O4
reactant | methanol | 6 mL | CO | CH4O
reactant | sodium hydroxide | 2 M, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | Water | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (6-{[3-(2-methyl-1-naphthyl)benzyl]oxy}-2,3-dihydro-1-benzofuran-3-yl)acetic acid | 0.444 g, yield 55% | CC1=C(C2=CC=CC=C2C=C1)C=1C=C(COC2=CC3=C(C(CO3)CC(=O)O)C=C2)C=CC1 | C28H24O4
